US07858621B2
Step 2: N-(3-Ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-(6-morpholin-4-yl-pyridin-3-yl)-acrylamide
N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt (20 mg, 0.072 mmol) was suspended in THF and treated with triethylamine (11 mg, 0.108 mmol) and then the resulting mixture was stirred for 10 mins. 3-(6-morpholin-4-yl-pyridin-3-yl)-acrylic acid (17 mg, 0.072 mmol) was added to the reaction mixture followed by DMTMM (22 mg, 0.08 mmol) after 10 mins. The resulting mixture was stirred overnight at ambient temperature and then diluted with EtOAc. The resulting solution was washed successively with water, sat'd NaHCO3 (×2), brine, and then dried over anh. Na2SO4, filtered and concentrated under reduced pressure. The crude residue was recrystallized (CH2Cl) to yield the title compound (8 mg, 24%).

reactant | N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt | 0.072 mmol, 20 mg | Cl.NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C
reactant | triethylamine | 0.108 mmol, 11 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(6-morpholin-4-yl-pyridin-3-yl)-acrylic acid | 0.072 mmol, 17 mg | N1(CCOCC1)C1=CC=C(C=N1)C=CC(=O)O | C12H14N2O3
reactant | DMTMM | 0.08 mmol, 22 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-Ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-(6-morpholin-4-yl-pyridin-3-yl)-acrylamide | 8 mg, 24% | C(#C)C=1C=C(CNC(C=CC=2C=NC(=CC2)N2CCOCC2)=O)C=C(C1NS(=O)(=O)C)F | C22H23FN4O4S
